US04871736
The first aspect of this invention is a process for the synthesis of stereoisomeric tricyclic bis(dioxopiperazines), 53 and 54, and their bis(morpholinomethyl) derivatives, 55 and 56, which comprises synthesizing pyrazine-2,5-dicarboxylic acid by oxidation of 2.5-dimethylpyrazine using SeO2 in refluxing pyridine-water. Thereafter hydrogenation of an alkaline solution of pyrazine-2,5-dicarboxylic acid at 50°-60° C. and 40-42 psi H2 pressure using Pd/C catalyst to produce the cis- and trans- piperazine-2,5-dicarboxylic acid, and gradual addition of HCl to the alkaline solution to separate the cis-and trans- isomers of piperazine-2,5-dicarboxylic acid. Thereafter refluxing a solution of either the cis or trans piperazine-2,5-dicarboxylic acid in saturated methanol-HCl to produce either the dimethyl cis- or trans- piperazine-2,5-dicarboxylate compound and reacting either the cis- or trans- compound with liquid ammonia under pressure to produce the compound cis- or trans- piperazine 2,5-dicarboxamide. And, finally, reacting the piperazine-2,5-dicarboxamide compound with ethyl bromoacetate/K2CO3 in dimethylsulfoxide at room temperature to produce the diethyl- cis- or trans- 2,5-bis(carbamoyl)- 1,4-piperazinediacetate and refluxing either the cis- or trans- compound in ethanol-sodium ethoxide to produce either the cis- or trans-tetrahydrodipyrazino [1,2-a:1',2'-d]pyrazine-1,3,7,9(2H,4H,8H,10H) tetraone compound of the present invention.

reactant | pyrazine-2,5-dicarboxylic acid | N1=C(C=NC(=C1)C(=O)O)C(=O)O | C6H4N2O4
reactant | 2.5-dimethylpyrazine | CC1=NC=C(N=C1)C | C6H8N2
reactant | HCl | Cl | ClH
reactant | trans- piperazine-2,5-dicarboxylate | N1[C@H](CN[C@@H](C1)C(=O)[O-])C(=O)[O-]
reactant | ammonia | N | H3N
reactant | pyridine water | N1=CC=CC=C1.O
catalyst | Pd/C | [Pd] | Pd
product | trans- piperazine 2,5-dicarboxamide | N1[C@H](CN[C@@H](C1)C(=O)N)C(=O)N | C6H12N4O2
